US09085540B2
A mixture of 3-chloro-6-(2-hydroxypropan-2-yl)-5-(3-nitrophenoxy)pyrazine-2-carboxamide (1.48 g), 4-(4-methylpiperazin-1-yl)aniline (883 mg), trifluoroacetic acid (385 μL), and N-methylpyrrolidone (14.8 mL) was heated to 160° C. for 5 hours. To the reaction mixture were added water and a saturated aqueous sodium hydrogen carbonate solution, and the precipitated solid was collected by filtration and then dried. The obtained solid was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-30:1:0.1) and washed with ethyl acetate to obtain 3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)-6-(prop-1-en-2-yl)pyrazine-2-carboxamide (1.15 g) as an orange solid.

reactant | 3-chloro-6-(2-hydroxypropan-2-yl)-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 1.48 g | ClC=1C(=NC(=C(N1)OC1=CC(=CC=C1)[N+](=O)[O-])C(C)(C)O)C(=O)N | C14H13ClN4O5
reactant | 4-(4-methylpiperazin-1-yl)aniline | 883 mg | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
reactant | trifluoroacetic acid | 385 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-methylpyrrolidone | 14.8 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 3-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)-6-(prop-1-en-2-yl)pyrazine-2-carboxamide | 1.15 g | CN1CCN(CC1)C1=CC=C(C=C1)NC=1C(=NC(=C(N1)OC1=CC(=CC=C1)[N+](=O)[O-])C(=C)C)C(=O)N | C25H27N7O4
